US05076835
Preparation of 5-[(2-Chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-1-acetyl-2-indolinone
A mixture of 5-[(2-chloro-α,α,α,6-tetra-fluoro-p-tolyl)oxy]-2-indolinone (6.8 g, 18.9 mmol) in acetic anhydride is heated at reflux temperature with stirring for 30 minutes, cooled to room temperature and concentrated in vacuo to give a brown wet residue. The residue is re-evaporated twice using xylenes and chromatographed using 10% ethyl acetate in hexane to give the title product as a white solid, 5.1 g (67%), mp 119°-121° C., identified by 1HNMR.

reactant | 5-[(2-chloro-α,α,α,6-tetra-fluoro-p-tolyl)oxy]-2-indolinone | 18.9 mmol, 6.8 g | ClC1=C(C(=CC(=C1)OC=1C=C2CC(NC2=CC1)=O)F)C(F)(F)F | C15H8ClF4NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 5-[(2-Chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-1-acetyl-2-indolinone | ClC1=C(C(=CC(=C1)OC=1C=C2CC(N(C2=CC1)C(C)=O)=O)F)C(F)(F)F | C17H10ClF4NO3
